US05792451
Preparation of N-Cyclohexanoylphenylalanine Aldehyde:
N-Cyclohexanoylphenylalanine methyl ester (0.5 g) was dissolved in ethylene glycol dimethyl ether (20 mL). The solution was cooled to -70° C. and diisobutylaluminum hydride (2.04 mL of a 1.5M solution in toluene) was added. The resulting reaction mixture was stirred at -70° C. for 2 hours. The reaction was quenched by dropwise addition of 2N hydrochloric acid. The mixture was extracted with cold ethyl acetate. The ethyl acetate solution was washed with brine and dried over sodium sulfate. Concentration in vacuo furnished a white solid which was purified by silica gel chromatography. Mass Spec.: M+1 m/e 261.

reactant | N-Cyclohexanoylphenylalanine methyl ester | 0.5 g | COC([C@@H](NC(=O)C1CCCCC1)CC1=CC=CC=C1)=O | C17H23NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Cyclohexanoylphenylalanine Aldehyde | C1(CCCCC1)C(=O)N[C@@H](CC1=CC=CC=C1)C=O | C16H21NO2
